US07820664B2
Step A: Methyl 7-fluoro-6-(2-fluorophenylamino)-3-methylisoxazolo[4,3-b]pyridine-5-carboxylate:
To a solution of methyl 6-acetyl-5-chloro-4-fluoro-3-(2-fluorophenylamino)picolinate (WO 2005/051906) (2 g, 5 mmole) in a mixture of acetone (36 ml) and H2O (12 ml) is added NaN3 (487 mg, 7.5 mmol). The reaction is heated at 65° C. for 16 h and cooled to room temperature. Acetone is concentrated and the resulting mixture is extracted with EtOAc (2×50 ml). The combined organic solution is washed with brine (50 ml), dried over MgSO4 and concentrated to give a yellow solid. To the solid is added H2O (24 ml) and the reaction is heated at reflux for 3 h. The reaction is cooled to room temperature, filtered, and washed with H2O. The resulting solid is dried under high vacuum with P2O5 at 65° C. for 24 h to give the title compound.

reactant | methyl 6-acetyl-5-chloro-4-fluoro-3-(2-fluorophenylamino)picolinate | 5 mmole, 2 g | C(C)(=O)C1=C(C(=C(C(=N1)C(=O)OC)NC1=C(C=CC=C1)F)F)Cl | C15H11ClF2N2O3
reactant | NaN3 | 7.5 mmol, 487 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 36 ml | CC(=O)C | C3H6O
solvent | H2O | 12 ml | O | H2O
solvent | H2O | 24 ml | O | H2O
product | Methyl 7-fluoro-6-(2-fluorophenylamino)-3-methylisoxazolo[4,3-b]pyridine-5-carboxylate | FC=1C=2C(N=C(C1NC1=C(C=CC=C1)F)C(=O)OC)=C(ON2)C | C15H11F2N3O3
